US05366987
(d) (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide
A stirred room temperature solution of 3-dodecyl-5-(phenylmethyl)isoxazole (38.3 g, 0.117 mol) in tetrahydrofuran (600 mL) was cooled to -78° C. under nitrogen. To the resulting precipitate was added dropwise a 2.01M solution (58 mL, 0.12 mol) in n-butyl lithium in hexanes over 10 minutes. The mixture was stirred for 1.25 hours before a solution of 2,4,6-trimethoxyphenyl isocyanate (24.43 g, 0.1168 mol) in tetrahydrofuran (350 mL) was added dropwise over 30 minutes. The mixture was stirred for 45 minutes then quenched with a dropwise addition of 1M HCl (235 mL, 0.235 mol) followed by ether (500 mL). The mixture was allowed to warm to room temperature. The organic layer was washed with 0.2M HCl , water, saturated sodium bicarbonate, and saturated sodium chloride, dried (MgSO4), and rotoevaporated to a solid. The material was recrystallized twice from diisopropyl ether and chromatographed on silica gel (830 g, 230- 400 mesh) using petroleum ether-ethyl acetate (2:1, 20×900 mL) to give a white solid; yield 40.7 g (65%), mp 106°-107° C.

reactant | 3-dodecyl-5-(phenylmethyl)isoxazole | 0.117 mol, 38.3 g | C(CCCCCCCCCCC)C1=NOC(=C1)CC1=CC=CC=C1 | C22H33NO
reactant | 2,4,6-trimethoxyphenyl isocyanate | 0.1168 mol, 24.43 g | COC1=C(C(=CC(=C1)OC)OC)N=C=O | C10H11NO4
reactant | HCl | 0.235 mol, 1M, 235 mL | Cl | ClH
reactant | ether | 500 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | n-butyl lithium | C(CCC)[Li]
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H44N2O5
